US05419932
16.0 g (47.6 mmol) of 2,2-bis(4-hydroxyphenyl)hexafluoropropane, 26.9 g (119 mmol) of 5-chloro-2-nitrobenzotrifluoride and 20.2 g (190 mmol) of sodium carbonate were reacted at 150° C. for 4 hours in 100 ml of dimethylformamide. After the reaction, the product was injected into 250 ml of iced water and extracted with ethyl acetate. The organic layer was washed with water and dried on anhydrous sodium sulfate. After filtration, the solvent was distilled off to recover a crude product, which was then purified by silica gel column chromatography (eluent: toluene/hexane=1/1) and then treated by activated carbon to obtain 32.6 g (yield: 95.9%) of 2,2-bis[(4-(4-nitro-3-trifluoromethylphenoxy)phenyl]hexafluoropropane.

reactant | 2,2-bis(4-hydroxyphenyl)hexafluoropropane | 47.6 mmol, 16.0 g | OC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)C1=CC=C(C=C1)O | C15H10F6O2
reactant | 5-chloro-2-nitrobenzotrifluoride | 119 mmol, 26.9 g | ClC=1C=CC(=C(C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
reactant | sodium carbonate | 190 mmol, 20.2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 250 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | (4-(4-nitro-3-trifluoromethylphenoxy)phenyl]hexafluoropropane | yield: 95.9% | [N+](=O)([O-])C1=C(C=C(OC2=CC=C(C=C2)C(C(F)(F)F)C(F)(F)F)C=C1)C(F)(F)F | C16H8F9NO3
